US07465751B2
Step 4: Preparation of (3S)-1-benzyl-3-azidopyrrolidine
The compound (3R)-1-benzyl-3-[(methylsulfonyl) oxy]pyrrolidine (1.3 g, 5.8 mM) was dissolved in dimethylformamide (25.0 ml) and sodium azide (1.5 g, 23.3 mM) was added to it. The reaction mixture was maintained at 90-100° C. for about 12 hours followed by cooling at room temperature. The reaction mixture was poured into cold water (150.0 ml) with constant stirring. The organic compound was extracted with ethyl acetate and washed with water and brine solution, dried over anhydrous sodium sulphate and concentrated to give the title compound. Yield=78% (0.9 g, 4.5 m. This material was used as such in the next step.

reactant | (3R)-1-benzyl-3-[(methylsulfonyl) oxy]pyrrolidine | 5.8 mM, 1.3 g | C(C1=CC=CC=C1)N1C[C@@H](CC1)OS(=O)(=O)C | C12H17NO3S
reactant | sodium azide | 23.3 mM, 1.5 g | [N-]=[N+]=[N-].[Na+]
reactant | water | 150.0 ml | O | H2O
solvent | dimethylformamide | 25.0 ml | CN(C=O)C | C3H7NO
product | (3S)-1-benzyl-3-azidopyrrolidine | Yield=78% | C(C1=CC=CC=C1)N1C[C@H](CC1)N=[N+]=[N-] | C11H14N4
